US04521418
2-(2-Guanidino-4-thiazolylmethylthio)ethylamine is heated under reflux in pyridine for 12 hours with 1.5 molar equivalents of 2-nitroamino-5-(5,6-dimethyl-3-pyridylmethyl)-4-pyrimidone to give 2-[2-(2-guanidino-4-thiazolylmethylthio)ethylamino]-5-(5,6-dimethyl-3-pyridylmethyl)-4-pyrimidone.

reactant | 2-(2-Guanidino-4-thiazolylmethylthio)ethylamine | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
reactant | 2-nitroamino-5-(5,6-dimethyl-3-pyridylmethyl)-4-pyrimidone | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC(=C(C1)C)C | C12H13N5O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-[2-(2-guanidino-4-thiazolylmethylthio)ethylamino]-5-(5,6-dimethyl-3-pyridylmethyl)-4-pyrimidone | N(C(=N)N)C=1SC=C(N1)CSCCNC1=NC=C(C(N1)=O)CC=1C=NC(=C(C1)C)C | C19H24N8OS2
